US05047404
3-Methylamino-8 -oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
3-Methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine (2.0 g) was treated with a solution of methylamine in industrial methylated spirit (33%, 30 ml) at 75° C. in a pressure vessel for 20 hours. The cooled reaction mixture was evaporated under reduced pressure to afford an oily solid which was dissolved in chloroform. The organic solution was washed with water, dried and evaporated under reduced pressure to afford a yellow oily solid which was eluted from a silica column with chloroform/methanol (5%). The fractions containing product were combined and evaporated under reduced pressure to afford a yellow solid (180 mg) which together with another sample (50 mg), similarly prepared, was recrystallised from ethanol to afford the title compound, 140 mg, m.p. 261°-263° C.

reactant | 3-Methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 2.0 g | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2S
reactant | methylamine | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Methylamino-8 -oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 180 mg | CNC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H16N6O2
